US04411913
A solution of 39.9 g cyclopentylidene cyanoacetic acid ethyl ester in 350 ml tetrahydrofuran is added dropwise to a solution of 2-methoxybenzyl magnesium chloride (produced from 5.3 g magnesium and 31.2 g 2-methoxybenzyl chloride in 400 ml ether). The mixture is stirred for 2 hours at room temperature. The mixture is treated with a 300 ml 15% ammonium chloride solution. The product is extracted with ether and the ethereal solution concentrated to yield crude α-cyano-[1-(2-methoxybenzyl)cyclopentane]-acetic acid ethyl ester which distilled at 140°-180°/0.002 mm Hg.

reactant | cyclopentylidene cyanoacetic acid ethyl ester | 39.9 g | C(C)OC(C(C#N)=C1CCCC1)=O | C10H13NO2
reactant | 2-methoxybenzyl magnesium chloride | 400 ml, 5.3 g | COC1=C(C[Mg]Cl)C=CC=C1
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | α-cyano-[1-(2-methoxybenzyl)cyclopentane] acetic acid ethyl ester | C(#N)C(C1=C(C=CC=C1)OC)C1CCCC1.C(C)OC(C)=O | InChI=1S/C14H17NO.C4H8O2/c1-16-14-9-5-4-8-12(14)13(10-15)11-6-2-3-7-11;1-3-6-4(2)5/h4-5,8-9,11,13H,2-3,6-7H2,1H3;3H2,1-2H3
